US06232290B1
A solution of methyl 4-(6-methoxy-n-hexyloxy)benzoate (17.05 g) in 1:1 tetrahydrofuran-methanol (300 ml) was treated with hydrazine monohydrate (66 ml) and refluxed for 15 hours then cooled to room temperature. The reaction mixture was poured into water and the resulting precipitate collected by filtration, washed thoroughly with water then dried under hi-vacuum at 50° C. to give 4-(6-methoxy-n-hexyloxy)benzohydrazide (15.63 g) as a white solid.

reactant | methyl 4-(6-methoxy-n-hexyloxy)benzoate | 17.05 g | COCCCCCCOC1=CC=C(C(=O)OC)C=C1 | C15H22O4
reactant | tetrahydrofuran-methanol | 300 ml | O1C(CCC1)CO | C5H10O2
reactant | hydrazine monohydrate | 66 ml | O.NN
solvent | water | O | H2O
product | 4-(6-methoxy-n-hexyloxy)benzohydrazide | 15.63 g | COCCCCCCOC1=CC=C(C(=O)NN)C=C1 | C14H22N2O3
